US04622401
3-Amino-1-(5-chloro-2-pyridyl)-2-pyrazoline
A 0.08 g. amount of sodium metal is dissolved in 10 ml. of absolute ethanol, then 2.5 g. of 5-chloro-2-hydrazinopyridine is added, followed by 1.70 g. of beta-ethoxypropionitrile. The procedure of Example 1 is continued to give 1.40 g. of the product of the Example as yellow crystals, m.p. 203°-204.5° C.

reactant | sodium | [Na] | Na
reactant | 5-chloro-2-hydrazinopyridine | ClC=1C=CC(=NC1)NN | C5H6ClN3
reactant | beta-ethoxypropionitrile | C(C)OCCC#N | C5H9NO
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-(5-chloro-2-pyridyl)-2-pyrazoline | NC1=NN(CC1)C1=NC=C(C=C1)Cl | C8H9ClN4
